### PR TITLE
feat(GroupTheory/SpecificGroups): define an isomorphism between a non-cyclic group of order 4 and the dihedral group of order 4

### PR DESCRIPTION
**Pull request by wupr**
---

This was suggested in a [comment](https://github.com/leanprover-community/mathlib4/pull/7937#pullrequestreview-1706715481) on #7937.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by wupr** [comment]
I wasn't sure where to place this definition. I imagine further classification of finite groups of small order would probably justify a dedicated "Mathlib/GroupTheory/SpecificGroups/SmallOrder.lean".

**Comment by wupr** [comment]
A note on the final `simp`. I added `(config := { decide := true })` because replacing it with `(config := { decide := false })` would fail to close the goal, and if I'm understanding correctly, the forthcoming change (leanprover/lean4#2722) in Lean v4.4.0 would break the proof.

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 1]
```diff
@@ -256,5 +257,51 @@ lemma card_conjClasses_odd (hn : Odd n) :
...
 
+section SmallOrder
+
+open scoped Classical
+
+variable {G : Type} [Group G] [Fintype G]
+
+/-- A non-cyclic group of order 4 is isomorphic to the dihedral group of order 4. -/
+noncomputable def mulEquivOfCardEqFourAndNotIsCyclic (h1 : Fintype.card G = 4) (h2 : ¬IsCyclic G) :
+    G ≃* DihedralGroup 2 :=
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:268]: I think it might be slightly shorter to do this constructively, by passing in two non-equal non-one elements of `G`, and identifying them with `sr 0` and `sr 1`

Comment (wupr) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:268]: I tried that and I'm not sure. It seems difficult to do this constructively, given that G is opaque. Am I missing something?

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean [hunk 2]
```diff
@@ -256,5 +257,51 @@ lemma card_conjClasses_odd (hn : Odd n) :
...
+      have : equiv z ≠ equiv 1 :=
+        fun h => hyx <| (mul_right_inj x).mp <| (h3 x).symm ▸ equiv.injective h
+      have : equiv z ≠ equiv x := fun h => hy1 <| mul_right_eq_self.mp <| equiv.injective h
+      have : equiv z ≠ equiv y := fun h => hx1 <| mul_left_eq_self.mp <| equiv.injective h
+      rw [Equiv.toFun_as_coe]
+      generalize equiv x = fx at *
+      generalize equiv y = fy at *
+      generalize equiv z = fz at *
+      revert fz fy fx
+      simp (config := { decide := true })
```
Comment (collares) [inline Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:302]:
```suggestion
      simp only [Equiv.setValue_eq, ne_eq]
      decide
```
I don't think it makes much of a difference, but this also works after the update.

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:268]: No, it's entirely possible that this suggestion is just a bad idea after all. My thinking was that if you have `(sr0 sr1 : G)`, you can get `r1 : G := sr0 * sr1`, and use `h1` to case-bash on the three elements. The reason I suggest that is because it looks like your proof of bijectivity is effectively doing the same case-bash anyway.

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean (hunk 2 above)
Comment (wupr) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:302]: That would work _after_ the v4.4.0 update, but if this were changed as suggested and merged now, line 302 would leave no goals and line 303 would return an error.

**Comment by j-loreaux** [comment]
I have thoughts about this, please don't merge yet.

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:268]: Pattern matching doesn't work like that I'm afraid, you have to chain `if then else`s

**Comment by j-loreaux** [comment]
I've just opened #8565, which I think may be the way we actually want to go about this (it implements @jcommelin suggestion from #7937 in [this comment](https://github.com/leanprover-community/mathlib4/pull/7937#pullrequestreview-1724554977)). With #8565, the result in this PR can be obtained as follows:

```lean
import Mathlib.GroupTheory.SpecificGroups.KleinFour

variable {G : Type} [Group G] [Fintype G]

/-- A non-cyclic group of order 4 is isomorphic to the dihedral group of order 4. -/
noncomputable def mulEquivOfCardEqFourAndNotIsCyclic (h1 : Fintype.card G = 4) (h2 : ¬IsCyclic G) :
    DihedralGroup 2 ≃* G :=
  IsKleinFour.mulEquiv' ((Fintype.equivOfCardEq h1.symm : DihedralGroup 2 ≃ G).setValue 1 1)
    (by simp) <| (IsKleinFour.not_isCyclic_iff h1).mp h2
```

**Comment by wupr** [comment]
Thanks @j-loreaux . I might just move my def to `KleinFour.lean` once #8565 is merge.

File: Mathlib/GroupTheory/SpecificGroups/Dihedral.lean (hunk 1 above)
Comment (wupr) [reply Mathlib/GroupTheory/SpecificGroups/Dihedral.lean:268]: Then I think I misunderstood what you meant by "constructive". I'll try again.
